US04118386
8-Nitro-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester
A stirred solution of 2.99 g (0.01 mol) of 7-nitro-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one in 50 ml of tetrahydrofuran was cooled in an ice bath under an atmosphere of nitrogen. Potassium t-butoxide, 1.29 g (0.0115 mol) was added, and after stirring for 5 minutes, 2.59 g (0.015 mol) of diethyl chlorophosphate was added and the stirring was continued for an additional 5 minutes. A mixture of 2.26 g (0.02 mol) of ethyl isocyanoacetate in 50 ml of tetrahydrofuran that has been treated with 2.24 g (0.02 mol) of potassium t-butoxide, just prior to the addition, was then added. After 5 min, the ice bath was removed and the stirring was continued for 1 hour. The mixture was acidified with 2 ml of glacial acetic acid, diluted with 200 ml of saturated sodium bicarbonate solution and extracted with two 125 ml portions of toluene which were dried and evaporated. Crystallization from ethyl acetate yielded end product with mp 228°-231°. For analysis, the material was chromatographed over a column of 60 g of silica gel using ethyl acetate/methylene chloride 1:1 (v/v) and recrystallized from ethyl acetate/ether to give colorless crystals with mp 229°-232°.

reactant | 7-nitro-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | 0.01 mol, 2.99 g | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)F)C1 | C15H10FN3O3
reactant | Potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | diethyl chlorophosphate | 0.015 mol, 2.59 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | ethyl isocyanoacetate | 0.02 mol, 2.26 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium t-butoxide | 0.02 mol, 2.24 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 8-Nitro-6-(2-fluorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, ethyl ester | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C=NC3C(=O)OCC)C3=C(C=CC=C3)F)C1 | C20H15FN4O4
